Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Penicillins / Codeine
 
Attending: ___
 
Chief Complaint:
"I'm here for ECT"

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo WF with long history of depression refractory to 
medication
admitted for planned ECT. Pt had suggested ECT to Dr. ___. She
did not want to go through another depressive similar to one she
had experienced that past ___. She states she was unable to
get out of bed and frankly unable to anything. She report her
depressive episodes as "dark holes" and that they have been
getting longer and deeper over time. 

She reports feeling "manicky" past two weeks. When asked to
clarify, pt reports she has been cleaning her house nonstop. You
can litterally eat off her carpet. She has not felt the need to
sleep and has only been sleepin ___ hours. She feels as if she
has more energy than usual. Last night was the first night she
slept well, 11 pm to 7 am. She reports feeling tired today as it
has been long. She would like to go to sleep as soon as 
possible.
Her concentration is ok when she is not tired. The only thing
really occupying her thoughts has been the planned ECT
treamtments. She feels very anxious about them but is also
looking forward to having them. She does not want have another
depressive episode. Her apetite has been decreased lately. She
only has breakfast and dinner and forgets about lunch. She has 
10
lbs over 2 months. She has also been going for walks. She enjoys
these walks along with reading non fiction books. She reports 
her
mood as being "normal in a way." She is unable to clarify
further. She feels guilty/shameful all the time about her
psychiatric illness.

Pt has thoughts of comitting suicide at time but states it takes
a lot of nerve/gut to actually do it. She has never attempted
before. She has thought about how she would do it but did not
want to tell me all the plans. She did mention that people have
coumadin in their medicine cabinets and that she could overdose
on meds and or inject an air bubble. She mentions two of her
close friends who committed suicide via rifle and med overdose
and how their actions still have ripple effect on her life 
today.

She states that she has aksed Dr. ___ to not able her as
bipolar as they are not viewed positively in society; it would
also affected her chances of getting a job in the past. 
 
Past Medical History:
PSYCHIATRIC HISTORY (INCLUDE PRIOR HOSPITALIZATIONS, OUTPATIENT
TREATMENTS, MEDICATION/ECT HISTORY, RESPONSE TO TREATMENT,
HISTORY OF HOMICIDAL/SUICIDAL/ASSAULTIVE BEHAVIOR):
- She has never attempted suicide or been psychiatrically
hospitalized.
-Dr. ___ her to have major depression superimposed 
on
dysthymic disorder.
- She has been seeing Dr. ___ past ___ years; before him, 
it
was Dr. ___ Dr. ___.  
-In the past, she has taken Wellbutrin, Celexa, Effexor, and
Zoloft, but these drugs seem to only temporarily to have helped
her depression.  The patient does mention that Cymbalta seemed
briefly to be helpful to her depression.
- First depressive episode occured ___ years after her father's
death from lymphoma at age ___. 

PAST MEDICAL HISTORY (INCLUDE HISTORY OF HEAD TRAUMA, SEIZURES,
OR OTHER NEUROLOGIC ILLNESS):
- hx of head truama; followed by cognitive neurology clinic.
Significant head injuries - the first occurring in her mid ___
while she was a ___. In turbulance she hit her head
and broke her second and third vertebrae and was hospitalized in
traction for one month.  She had numbness bilaterally in her 
arms
and did sustain a concusion although I'm not certain if she had
any period of amnesia. Another head injury occurred when she hit
her head on the baseboard in an accident in the house - this was
accompanied by a 30 second loss of consciousness and nausea and
blurred vision. She had another brief episode of loss of
consciousness when a tool used to refurnish furniture fell onto
the right side of her head.  There was no loss of consciousness
during her assault although she does recall hitting her head
against the curb several times.  She had two other episodes of
milder head injury without loss of consciousness.

- osteoarthritis
- post-polio syndrome;left leg weakness
- cholecystectomy
- hx of PUF
 
Social History:
SOCIAL HISTORY (FAMILY OF ORIGIN, CHILDHOOD, PHYSICAL/SEXUAL
ABUSE HISTORY, EDUCATION, EMPLOYMENT, RELATIONSHIPS, SEXUAL
HISTORY/STD RISKS, MILITARY RECORD, LEGAL HISTORY, ETC.):
She was born and raised in ___ reports having been a
good student although her marks declined when her father died
when she was ___ yo.  She did take some college courses and
briefly worked at a chemistry lab at the ___ prior to beginning
her job as a ___ which she held for ___ years. She 
received
disability from ___ in ___ due to her major depression but
then was terminated from the company and so lost her disability.
She tells me that she did not realize she qualified for SSDI and
so depleted her savings in the
intervening ___ years prior to obtaining SSDI in ___.  She
started to work again in (?___) at ___ but lost this job in
___ when the company closed. For ___ years until ___
she worked at ___ as a ___. 

She reports having been close to her parents and her sister.  In
fact, she lived with her sister during one period of severe
depression when she was taking poor care of herself.  Her sister
was involved in encouraging her.

She never got married. She did apparently have a very serious
romantic involvement with a man when she was in her early ___. 
It
appears that he was married at the time, although apparently in
the process of getting divorced.  He actually died suddenly of
congenital heart disease during the time that they were still
involved. Few months before his death, two of her close friends
committed suicide via a rifle and med overdose. 

She was raped 6 months after her "boyfriend's" death.  After 
this event, she developed PTSD. 

She has never been married or had children.
 
Family History:
Is significant for alcoholism in her father and in her extended 
family.  I would note that her mother and father were second 
cousins who married.
 
Physical Exam:
Mental Status Exam
General: Pleasant and cooperative.
Appearance: Older woman in appropriate clothing with dyed hair
pulled back. Good hygiene. 
Behavior: Good eye contact, slight tremor noted today after eCT.
Speech: Normal rate, tone, and volume.  
Mood/Affect: "good". Affect euthymic. 
Thought Form: Not tangential, no need for redirection.  No loose
associations
Thought content: No hallucinations or delusions apparent.  No
suicidal ideation or concern for harming self or others
Insight and Judgment: Good/Good. Ms. ___ continues to 
endorse
improved mood and hopes to pursue outpatient therapy along with
restarting activities which she has been neglecting due to
depression

Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

PE:
V/S: T 100.3, HR 72, BP 159/57, RR 16, O2 98% on RA
General:NAD, thinning hair
HEENT: Normocephalic. PERRL, EOMI. ___ normal. Oropharynx clear.
Neck: Supple, trachea midline.  No adenopathy or thyromegaly.
Lungs: Clear to auscultation; no crackles or wheezes.
CV: Regular rate and rhythm; no murmurs/rubs/gallops; 2+ pedal
pulses
Abdomen: Soft, nontender, nondistended; no masses or
organomegaly.
Extremities: No clubbing, cyanosis, or edema.
Skin: Warm and dry, no rash or significant lesions.
Neurological:
  *Cranial Nerves-
       I: Not tested
       II: Pupils equally round and reactive to light
bilaterally. Visual fields are full to confrontation.
      III, IV, VI: Extraocular movements intact bilaterally
without
nystagmus.
      V, VII: Facial strength and sensation intact and 
symmetric.
      VIII: Hearing intact to voice.
      IX, X: Palatal elevation symmetrical.
      XI: Sternocleidomastoid and trapezius normal bilaterally.
      XII: Tongue midline without fasciculations.
  *Motor- Normal bulk and tone bilaterally. No abnormal
movements, tremors. Strength full power ___ throughout. No
pronator drift.  
  *Sensation- Intact to light touch
  *Coordination- Normal on finger-nose-finger, rapid alternating
movements; UNABLE to do heel to shin walk. States its always 
been
that way
 
Pertinent Results:
___ 06:25AM BLOOD WBC-5.6 RBC-5.28 Hgb-15.2 Hct-45.3 MCV-86 
MCH-28.7 MCHC-33.4 RDW-14.0 Plt ___
___ 04:00PM BLOOD Neuts-61.8 ___ Monos-5.3 Eos-1.9 
Baso-2.3*
___ 06:25AM BLOOD Plt ___
___ 06:25AM BLOOD Glucose-133* UreaN-14 Creat-0.8 Na-141 
K-4.1 Cl-105 HCO3-26 AnGap-14
___ 06:25AM BLOOD Calcium-10.1 Phos-4.2 Mg-2.0
___ 06:25AM BLOOD TSH-2.2
___ 04:00PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 01:45PM URINE  UCG-NEGATIVE
___ 01:45PM URINE  bnzodzpn-POS barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 01:45PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 01:45PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-10 BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG
___ 01:45PM URINE  RBC-1 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-3
___ 01:45PM URINE  HYALINE-6*
___ 01:45PM URINE  MUCOUS-RARE
 
Brief Hospital Course:
1) Psychiatric
Ms. ___ had a planned admission for ECT treatment.  She 
arrived on ___.  On initial evaluation she stated that her 
main concern was a feeling of social isolation.  She had been 
accustomed to volunteering at church and seeing friends/family 
in the past, but over the past months to years had difficulty 
being social.  She felt as though she was masking sadness and 
was not able to fully be herself in any situation.  She was 
anxious about hospitalization and had difficulty sleeping 
escpecially with the night checks.  She related some of this 
anxiety to the trauma of being raped at a younger age.  She 
denied current suicidal thougths, but acknowledged that she had 
thought about and considered cutting her wrists several times in 
the past.  

Initial treatments included increasing the Prozac dosing to 40mg 
PO QD and initiating vistaril 75mg QHS for aiding sleep. 
Trazodone 200 mg was continued. After appropriate medicine and 
anesthesia evaluations, ECT treatment was started on ___.  Ms. 
___ tolerated the first ECT treatment well with limited side 
effects noted.  She was pleased with treatment and noted that 
she felt as though her depression was beginning to lift.  Ms. 
___ underwent ECT treatments every ___, and 
___ with the final treatment (#6) on ___.  Ms. ___ 
did not problems with dizziness, headache, and nausea lasting 
___ hours after treatments starting with the ___ treatment on 
___. On speaking the the ECT team, Ms. ___ had been 
requiring 3 separate pulses with each treatment in order to 
achieve sustained seizure activity which may have been 
accounting for some of the side effects.  Despite the side 
effects, Ms. ___ expressed progressive betterment of her 
mood with the treatments.  She expressed feeling as though her 
mask was being lifted and that she could share more easily with 
others.  She became more motivated to begin volunteering at 
church and socializing.  Ms. ___ endorsed and marked 
difference in how she felt after ___ ECT treatments and how she 
felt before.  Ms. ___ final ECT treatment on ___ was a 
bilateral ECT which she tolerated better than the 3 unilateral 
treatments which she underwent prior.  Throughout treatment her 
memory remained intact.  On questioning the morning of discharge 
___, Ms. ___ recalls recent events such as weekend 
activities, memory was also intact to address, phone number, 
high school teacher. 

2) Medical: 
- Was cleared for ECT by medicine and anesthesia teams.  NSAIDs 
given PRN for arthritic pains.  

3) Social: 
- Sister visited after initial treatment, will be able to help 
with travel after discharge
- Neighbors visited in the first week of admission and Ms. 
___ hopes to be able sustain and better her relationship 
with these neighbors

4) Legal: ___
5) Safety: No behavioral problems or safety concerns on the 
unit. Routine Q15 min checks throughout her stay.  Ms. ___ 
emphatically denies any thoughts of suicide or harming 
herself/others in any way.
 
Medications on Admission:
CLONAZEPAM - 1 mg Tablet - 1 Tablet(s) by mouth four times a day
FLUOXETINE - 20 mg Capsule - 1 Capsule(s) by mouth once a day
HYDROCORTISONE - 1 % Cream - apply to ear three times a day
MECLIZINE - 12.5 mg Tablet - 1 Tablet(s) by mouth three times a
day as needed for dizziness/nausea - has not taken for past
month.
TRAZODONE - 100 mg Tablet - 3 Tablet(s) by mouth at bedtime -
usually takes 200 mg.
 
Discharge Medications:
1. cortisone 1 % Cream Sig: One (1) Appl Topical TID (3 times a 
day).  
2. trazodone 100 mg Tablet Sig: Two (2) Tablet PO QHS (once a 
day (at bedtime)).  
3. meclizine 12.5 mg Tablet Sig: One (1) Tablet PO TID (3 times 
a day) as needed for nausea/dizziness.  
4. fluoxetine 40 mg Capsule Sig: Two (2) Capsule PO QAM (once a 
day (in the morning)).
Disp:*60 Capsule(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Axis I: h/o major depressive disorder, recurrent, severe, 
without psychotic features
Axis II: Deferred
Axis III: Arthritis, post-polio syndrome, h/o head trauma
Axis IV: Social isolation
Axis V: 50
 
Discharge Condition:
General: Pleasant and cooperative.
Appearance: Older woman in appropriate clothing with dyed hair
pulled back. Good hygiene. 
Behavior: Good eye contact, slight tremor noted today after eCT.
Speech: Normal rate, tone, and volume.  
Mood/Affect: 'good'. Affect euthymic. 
Thought Form: Not tangential, no need for redirection.  No loose
associations
Thought content: No hallucinations or delusions apparent.  No
suicidal ideation or concern for harming self or others
Insight and Judgment: Good/Good. Ms. ___ continues to 
endorse
improved mood and hopes to pursue outpatient therapy along with
restarting activities which she has been neglecting due to
depression

Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
-Specifically, please contact a health provider or go to the 
emergency department if you have thoughts of harming or killing 
yourself, if your thoughts become increasingly confused, if you 
can't sleep for multiple nights
*It was a pleasure to have worked with you, and we wish you the 
best of health.*
 
Followup Instructions:
___